US07745452B2
6-Chloro-4-hydroxy-3-(2,2,2-trifluoroethyl)-4-(trifluoromethyl)-3,4-dihydro-quinazolin-2(1H)-one (8-4)
A mixture of triethylamine (1.3 ml, 9.4 mmol) and 1-(2-amino-5-chlorophenyl)-2,2,2-trifluoroethanone (2.1 g, 9.4 mmol) in diethyl ether (18 ml) was cooled to 0° C. under nitrogen atmosphere. In a separate round bottom, triphosgene (929 mg, 3.1 mmol) in diethyl ether (11 ml) was cooled to 0° C. To the phosgene mixture at 0° C. was added dropwise the trifluoroethanone mixture. After stirring for 15 minutes, to this reaction was added a mixture of triethylamine (1.3 ml, 9.4 mmol) and trifluoroethylamine in diethyl ether (18 ml). The reaction stirred for two hours at room temperature and then quenched with water (50 ml) and washed with saturated aqueous sodium bicarbonate solution (2×30 ml). The aqueous layer was extracted with ethyl acetate (3×100 ml) and the combined organic extracts were dried over Na2SO4, filtered and concentrated to give crude material which was purified by flash chromatography on silica gel (0-30% ethyl acetate/hexanes). This afforded 6-chloro-4-hydroxy-3-(2,2,2-trifluoroethyl)-4-(trifluoromethyl)-3,4-dihydroquinazolin-2(1H)-one as a yellow solid. 1H NMR (CDCl3, 400 MHz) δ 9.22 (s, 1H), 7.58 (s, 1H), 7.39 (dd, J=2.0 and 8.6 Hz, 1H), 6.84 (d, J=8.4 Hz), 4.71 (m, 1H), 4.38 (s, 1H), 4.18 (m, 1H). Exact Mass (Electrospray, M+H): Calc'd, 349.0173; Found, 349.0166.

reactant | triethylamine | 9.4 mmol, 1.3 ml | C(C)N(CC)CC | C6H15N
reactant | 1-(2-amino-5-chlorophenyl)-2,2,2-trifluoroethanone | 9.4 mmol, 2.1 g | NC1=C(C=C(C=C1)Cl)C(C(F)(F)F)=O | C8H5ClF3NO
reactant | triphosgene | 3.1 mmol, 929 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | trifluoroethanone | FC(C=O)(F)F | C2HF3O
reactant | triethylamine | 9.4 mmol, 1.3 ml | C(C)N(CC)CC | C6H15N
reactant | trifluoroethylamine | FC(CN)(F)F | C2H4F3N
solvent | diethyl ether | 18 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 11 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 18 ml | C(C)OCC | C4H10O
product | 6-Chloro-4-hydroxy-3-(2,2,2-trifluoroethyl)-4-(trifluoromethyl)-3,4-dihydro-quinazolin-2(1H)-one | ClC=1C=C2C(N(C(NC2=CC1)=O)CC(F)(F)F)(C(F)(F)F)O | C11H7ClF6N2O2
